US07696231B2
N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2-[5-(1pyrrolidinyl)-2H-tetrazol-2-yl]acetohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 2-[5-(1-pyrrolidinyl)-2H-tetrazol-2-yl]acetohydrazide. After stirring at 100° C. the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 67 mg of the title compound (72%) as a yellow powder in 95% purity by HPLC (Rt: 4.24, gradient of 8 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 2-[5-(1-pyrrolidinyl)-2H-tetrazol-2-yl]acetohydrazide | N1(CCCC1)C=1N=NN(N1)CC(=O)NN | C7H13N7O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2-[5-(1pyrrolidinyl)-2H-tetrazol-2-yl]acetohydrazide | 67 mg, 72% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(CN1N=C(N=N1)N1CCCC1)=O | C15H15IN8O2
